Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Bactrim
 
Attending: ___
 
Chief Complaint:
Imbalance
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ (BID #: ___ is a ___ year old female with a
history of hypertension who presents to the ED with complaints 
of
gait unsteadiness.

She was in her usual state of health on ___ and 
completed
a long shift at work.  She states she was somewhat fatigued
afterwards but otherwise felt fine.  She went to bed, and awoke
___ morning at about 7 AM.  Initially, in bed, she felt
fine.  However, when she sat up to get out of bed she noticed
immediately that she felt very unsteady.  She describes this as 
a
general sense of disequilibrium, like she cannot keep her
balance.  She denies any room spinning vertigo, lightheadedness,
palpitations, chest pain, dyspnea, or tunnel vision.  She felt 
as
if she had to hold onto objects around the room to maintain her
balance.  She did not fall, but did feel that she was close to
falling when she was not holding on to something for support. 
She does note that she has feels fine when lying still on her
back and that even moving her head or rolling over can trigger
her symptoms.  However, she is unable to describe how long her
symptoms last for when she does trigger them.  Her unsteadiness
persisted throughout the day on ___, and she presented to
the ED on ___ afternoon.

While in the ED she has been observed for possible
dizziness/vertigo.  Lab work has been unrevealing.  She was seen
by physical therapy this morning, who found her to be profoundly
unsteady.  Her symptoms have not improved at all.  Neurology is
therefore consulted.

On my interview, she continues to complain of unsteadiness
whenever she moves or sits up.  She otherwise feels generally
fine.  She does note some nausea throughout the day today that
was not present yesterday, however she has not vomited.  
Notably,
she also complains of a pressure like ache on the right side of
her neck which also started yesterday morning.  This seems to be
a bit worse today compared to yesterday.  Finally, she complains
of a mild frontal headache today.

Of note, she does have a history of intermittent palpitations. 
This is apparently been worked up in the past with Holter
monitor, which was unrevealing.  She does endorse a few 
instances
of palpitations in the past 3 days, but nothing out of the
ordinary for her.

 
Past Medical History:
Hypertension
GERD
Palpitations
Otosclerosis, currently being evaluated at ___.  Presented with symptoms of tinnitus, never vertigo. 
 
Social History:
Currently works as an ___ at ___.  Her
job is laborious, but denies any recent neck or head injury.  No
chiropractic manipulations.  No recent auto accidents or other
neck injuries.  Formerly smoked in social situations, has not 
for
many years.  Drinks alcohol twice per month, no more than 2
drinks per night.  No illicit drug use.                          


 
- Modified Rankin Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
Her sister also has otosclerosis.  No family history of stroke,
multiple sclerosis, or other neurologic disease. 
 
Physical Exam:
ADMISSION EXAMINATION
=====================
Vitals: T: Afebrile P: 78 r: 16  BP: 121/75 SaO2: 98% room air
General: Awake, cooperative, appears fatigued.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

___ maneuver was attempted, but she had a difficult 
time
cooperating due to symptoms of nausea, not clearly provoked by
maneuver.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    5    ___  5    ___     5     5   
R  5    5    ___  5    ___     5     5   
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.  Pectoralis jerk 
present
bilaterally

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.  No
overshoot with mirror testing.  When sitting at the edge of the
bed, there is significant truncal ataxia, and she wobbles and
nearly falls.

-Gait: Slow initiation due to unsteadiness.  Stance is narrow,
however her gait is very unsteady/ataxic and she nearly fell
after a few short steps

DISCHARGE EXAMINATION
=====================
Vitals: T: 98.3 P: 102 RR: 18  BP: 120/77 SpO2: 96% room air
General: Awake, cooperative, in NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: Normal work of breathing
Cardiac: warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Language is fluent with intact 
comprehension. Speech was not dysarthric. Able to
follow both midline and appendicular commands.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm ___. EOMI without nystagmus. 
Normal saccades.  
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Negative head impulse test bilaterally; Weber localized to 
AD with BC > AC on ___. Deviated slightly to right on 
Unterberger.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Increased tone in BLE. No pronator drift bilaterally. No 
adventitious movements, such as tremor, noted. Full power 
throughout.

-Sensory: No deficits to light touch throughout with normal 
vibration at distal BLE; decreased JPS noted, however, in distal 
LLE > RLE at MCP joints. No extinction to DSS. Very mild wobble 
on Romberg, but she was distractable. When writing a number on 
her forehead for her to identify while she was closing her eyes, 
she had less of a wobble. She was able to do the ___ 
test without any problems and she did not turn or deviate. 

-DTRs:
  Bi Tri ___ Pat Ach
L  3  2    3    2   2
R  3  2    3    2   2
Pectoralis jerk present bilaterally.

-Coordination: No dysmetria on FNF or HKS bilaterally. No 
significant truncal ataxia. Gait: Hesitant though narrow-based 
and steady.
 
Pertinent Results:
LABORATORY DATA
===============
___ 04:16PM BLOOD WBC-7.6 RBC-4.68 Hgb-14.1 Hct-41.4 MCV-89 
MCH-30.1 MCHC-34.1 RDW-13.4 RDWSD-43.4 Plt ___
___ 04:16PM BLOOD Glucose-90 UreaN-11 Creat-0.5 Na-143 
K-6.3* Cl-107 HCO3-20* AnGap-16
___ 06:30PM BLOOD K-4.5
___ 10:16PM BLOOD cTropnT-<0.01
___ 04:16PM BLOOD cTropnT-<0.01
___ 06:15AM BLOOD Cholest-195
___ 06:15AM BLOOD VitB12-551 Folate-13
___ 06:15AM BLOOD %HbA1c-5.0 eAG-97
___ 06:15AM BLOOD Triglyc-37 HDL-80 CHOL/HD-2.4 LDLcalc-108
___ 06:15AM BLOOD TSH-1.5
___ 04:50PM URINE Color-Straw Appear-Clear Sp ___
___ 04:50PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 04:50PM URINE UCG-NEGATIVE

___ 6:15 am BLOOD CULTURE
   Blood Culture, Routine (Pending)

___ 4:50 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING
=======
___ 3:30 ___ CTA HEAD AND CTA NECK
1. No evidence for acute intracranial hemorrhage or vascular 
territorial
infarction.
2. Patent intracranial cervical vasculature without high-grade 
stenosis,
occlusion, or aneurysm greater than 3 mm.

___ 8:52 ___ STROKE PROTOCOL (BRAIN W/O); MRA BRAIN W/O 
CONTRAST
1. No evidence for acute intracranial hemorrhage or infarction.
2. Patent intracranial vasculature without high-grade stenosis, 
occlusion, or aneurysm.
 
Brief Hospital Course:
___ woman with history notable for hypertension and GERD 
presenting with one day of disequilibrium. Examination initially 
notable for truncal ataxia as well as significantly unsteady 
gait, both improved on follow-up examination prior to discharge; 
follow-up examination otherwise notable for increased bilateral 
lower extremity tone, decreased joint position sense in 
bilateral feet, slight sway on ___ test, and slight 
rightward deviation on ___ test. CT head and CTA head 
and neck unremarkable, with MRI not demonstrating evidence of 
acute infarct, hemorrhage, or chronic inflammatory lesion. Gait 
disturbance thus ascribed to slight impairment of 
proprioception, potentially reflective of large fiber neuropathy 
or posterior spinal column compression/inflammation. Following 
discussion with patient, given significant improvement in 
symptoms and absence of additional findings suggestive of cord 
compression or demyelination, further spinal imaging deferred, 
though spinal imaging (particularly of the C-spine) should be 
considered in the outpatient setting should symptoms persist or 
worsen or if new symptoms develop.

TRANSITIONAL ISSUES
1. Consider spinal MRI with and without contrast as above in the 
outpatient setting.
2. Consider outpatient physical therapy if symptoms persist.
 
Medications on Admission:
1. amLODIPine 5 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Disequilibrium
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for 
evaluation of unsteadiness. CT and MR imaging of your head and 
neck did not show signs of a stroke, bleed, or mass causing your 
symptoms. There was also no evidence of an inflammatory process 
such as multiple sclerosis in your brain. Your symptoms improved 
markedly after admission, and you were able to walk without 
significant difficulty. Your symptoms were likely due to 
decreased sensation from your feet affecting your balance; 
nevertheless, it may be worthwhile to have an MRI of your spine 
(particularly your cervical spine) after leaving the hospital if 
you experience new or persistent symptoms.

Please follow up with your primary care provider within the next 
___ weeks. Please also follow up with a neurologist within the 
next 3 months; you will be contacted by ___ for an 
appointment, but may schedule an appointment with any local 
neurologist if you prefer.

It was a pleasure taking care of you at ___.

Sincerely,
Neurology at ___
 
Followup Instructions:
___